US04112105
To a vigorously stirred mixture containing 970 g. (6.2 moles) of freshly distilled N1,N1 -diethyl-1,4-pentanediamine, 4 l. of 1,2-dichloroethane and 1 l. of water at 5°-10° C. there was simultaneously added dropwise a solution containing 5.95 moles of 4-chloro-2-nitrobenzoyl chloride in approximately 8 l. of 1,2-dichloroethane and a solution containing 410g. (6.2 moles) of 85% potassium hydroxide in 1 l. of water. When the addition was complete the ice bath was removed and stirring was continued 0.5 hours at room temperature. The organic layer was separated, dried over anhydrous calcium sulfate and evaporated to dryness under vacuum. The residue was dissolved in 3 l. or 1,2-dichloroethane and the resulting solution was treated with decolorizing carbon and filtered. The filtrate was diluted to 6 l. with additional 1,2-dichloroethane to give a pale yellow solution of 4-choro-N-[4-(diethylamino)-1-methylbutyl]-2-nitrobenzamide which was divided into three equal portions which were used directly in the next step.

reactant | N1,N1 -diethyl-1,4-pentanediamine | C(C)N(CCCC(C)N)CC | C9H22N2
reactant | 4-chloro-2-nitrobenzoyl chloride | 5.95 moles | ClC1=CC(=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | potassium hydroxide | 6.2 moles | [OH-].[K+]
solvent | water | O | H2O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-choro-N-[4-(diethylamino)-1-methylbutyl]-2-nitrobenzamide | ClC1=CC(=C(C(=O)NC(CCCN(CC)CC)C)C=C1)[N+](=O)[O-] | C16H24ClN3O3
